US07642264B2
2-Chloro-4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 4-(4-chloro-phenyl)-6-trifluoromethyl-1H-pyrimidin-2-one (6.96 g, 25.3 mmol) and phosphoryl chloride (80 mL) according to the general procedure I. Obtained as an off-white solid (7.35 g, 99%). MS (EI) 292.0 [(M)+]; mp 108° C.

reactant | 4-(4-chloro-phenyl)-6-trifluoromethyl-1H-pyrimidin-2-one | 25.3 mmol, 6.96 g | ClC1=CC=C(C=C1)C1=NC(NC(=C1)C(F)(F)F)=O | C11H6ClF3N2O
reactant | phosphoryl chloride | 80 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-(4-chloro-phenyl)-6-trifluoromethyl-pyrimidine | ClC1=NC(=CC(=N1)C1=CC=C(C=C1)Cl)C(F)(F)F | C11H5Cl2F3N2
